US08017626B2
Method 12: 4-hydroxy-7-(methoxycarbonyl)-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid
Palladium, 10 wt. % on activated carbon, (5.1 mg, 48 μmol) was added to a solution of 3-benzyl 7-methyl 4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3,7-dicarboxylate (88 mg, 240 μmol) in ethyl acetate (19 ml) and brought under an atmosphere of H2 while stirring vigorously. After the reaction was complete, the mixture was filtered through a Celite pad, rinsing with EtOAc/DCM to give an off-white powder (59 mg, 89%) which was used without further purification.

reactant | 3-benzyl 7-methyl 4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3,7-dicarboxylate | 240 μmol, 88 mg | OC1=C(C(N(C2=CC(=CC=C12)C(=O)OC)C)=O)C(=O)OCC1=CC=CC=C1 | C20H17NO6
solvent | ethyl acetate | 19 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium | [Pd] | Pd
product | 4-hydroxy-7-(methoxycarbonyl)-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid | 59 mg, 89% | OC1=C(C(N(C2=CC(=CC=C12)C(=O)OC)C)=O)C(=O)O | C13H11NO6
